US05250517
100 mg (0.256 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]-imidazole-4-propionamide and 0.052 ml of Hunig base in 2 ml of acetonitrile were treated at room temperature with 100 mg of N-(dibenzylcarbamoyl)-3-phenyl-L-alanine and 113 mg of BOP and subsequently stirred at room temperature for 12 hours. Thereafter, the reaction solution was poured onto 1N hydrochloric acid/ice, extracted with ethyl acetate, the extracts were dried over sodium sulfate and the solvent was removed under reduced pressure. Chromatography of the residue on silica gel using a 10:1 mixture of methylene chloride and methanol as the eluting agent yielded 130 mg of 1,1-dibenzyl-3-[(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]urea in the form of an amorphous solid. MS: 761 (M+H)+.

reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]-imidazole-4-propionamide | 0.256 mmol, 100 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | Hunig base | 0.052 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(dibenzylcarbamoyl)-3-phenyl-L-alanine | 100 mg | C(C1=CC=CC=C1)N(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1 | C24H24N2O3
reactant | BOP | 113 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1,1-dibenzyl-3-[(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]urea | 130 mg | C(C1=CC=CC=C1)N(C(=O)N[C@@H](CC1=CC=CC=C1)C(N[C@@H](CC=1N=CNC1)C(N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)=O)=O)CC1=CC=CC=C1 | C46H60N6O4
